US08912188B2
To a solution of methyl 3-(isopropyl(methyl)amino)-2-(3-methyl-1H-indol-5-yl)quinoxaline-6-carboxylate (80 mg, 0.21 mmol) in MeOH (10 mL) was added sodium hydroxide (52 mg, 0.29 mmol) and water (1 mL). The resulting solution was stirred for 2 h at room temperature and concentrated under vacuum. The residue was dissolved in water (3 mL) and adjusted to pH 6 with hydrochloric acid (1N). The solids were collected by filtration to afford 3-(isopropyl(methyl)amino)-2-(3-methyl-1H-indol-5-yl)quinoxaline-6-carboxylic acid as a yellow solid (45.8 mg, 59%).

reactant | methyl 3-(isopropyl(methyl)amino)-2-(3-methyl-1H-indol-5-yl)quinoxaline-6-carboxylate | 0.21 mmol, 80 mg | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=C2C(=CNC2=CC1)C)C | C23H24N4O2
reactant | sodium hydroxide | 0.29 mmol, 52 mg | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
product | 3-(isopropyl(methyl)amino)-2-(3-methyl-1H-indol-5-yl)quinoxaline-6-carboxylic acid | 45.8 mg, 59% | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C=1C=C2C(=CNC2=CC1)C)C | C22H22N4O2
